US06541484B2
Sodium pellets (0.86 g, 37.4 mmol) were added carefully to dry ethanol (40 ml) in a round-bottomed flask with a condenser in place and under nitrogen. The resulting solution of sodium ethoxide was allowed to cool to room temperature before addition of diethyl malonate (4.74 ml, 31.2 mmol). 5-Amino-1-phenylpyrazole-4-carbonitrile (2.30 g, 12.5 mmol) was added portionwise and the mixture heated at reflux for 4 h. The mixture was cooled and the ethanol removed in vacuo. Water (25 ml) was added to the residue and the solid was filtered off, washing with water. 4-Amino-6,7-dihydro-6-oxo-1-phenyl-1H-pyrazolo [3,4-b]pyridine-5-carboxylic acid ethyl ester (1.5 g, 40%) was obtained as a white solid. δH (400 MHz; DMSO) 1.35 (3H, t, J=7), 4.40 (2H, q, J=7), 7.30-7.34 (1H, m), 7.49-7.54 (2H, m), 8.04 (2H, br s), 8.09 (2H, br d, J=8), 8.44 (1H, s), 12.20 (1H, br s).

reactant | Sodium | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 31.2 mmol, 4.74 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-Amino-1-phenylpyrazole-4-carbonitrile | 12.5 mmol, 2.30 g | NC1=C(C=NN1C1=CC=CC=C1)C#N | C10H8N4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-Amino-6,7-dihydro-6-oxo-1-phenyl-1H-pyrazolo [3,4-b]pyridine-5-carboxylic acid ethyl ester | 1.5 g, 40% | C(C)OC(=O)C1=C(C2=C(NC1=O)N(N=C2)C2=CC=CC=C2)N | C15H14N4O3
